US05696167
In analogy to Example 1, the reaction of guanidine with 2-ethyl-4-(4-pyridylthio)-5-methylsulfonylbenzoyl chloride [obtainable by reacting 2-ethyl-4-chloro-5-methylsulfonylbenzoic acid with 4-mercaptopyridine in the presence of NaOCH3 at 180° followed by chlorination with SOCl2 ] gives N-diaminomethylene-2-ethyl-4-(4-pyridylthio)-5-methylsulfonylbenzamide.

reactant | guanidine | NC(=N)N | CH5N3
reactant | 2-ethyl-4-(4-pyridylthio)-5-methylsulfonylbenzoyl chloride | C(C)C1=C(C(=O)Cl)C=C(C(=C1)SC1=CC=NC=C1)S(=O)(=O)C | C15H14ClNO3S2
reactant | 2-ethyl-4-chloro-5-methylsulfonylbenzoic acid | C(C)C1=C(C(=O)O)C=C(C(=C1)Cl)S(=O)(=O)C | C10H11ClO4S
reactant | 4-mercaptopyridine | SC1=CC=NC=C1 | C5H5NS
reactant | NaOCH3 | O([Na])C
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
product | N-diaminomethylene-2-ethyl-4-(4-pyridylthio)-5-methylsulfonylbenzamide | NC(=NC(C1=C(C=C(C(=C1)S(=O)(=O)C)SC1=CC=NC=C1)CC)=O)N | C16H18N4O3S2
